US05665777
A mixture under N2 in DMF (18 mL) of 4-iodophenol (2.00 g, 9.09 mmol), 4-fluorophenylboronic acid (1.40 g, 10.0 mmol), cesium carbonate (4.44 g, 13.6 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.27 g, 0.23 mmol) was stirred for 10 minutes at ambient temperature and then overnight at reflux. The reaction mixture was cooled to ambient temperature, diluted with ethyl acetate, and extracted twice with water. The organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. Chromatography on silica gel (10:1, then 5:1 hexanes-ethyl acetate) gave 4-(4-fluorophenyl)phenol (0.79 g, 46%) as a white powder.

reactant | 4-iodophenol | 9.09 mmol, 2.00 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 4-fluorophenylboronic acid | 10.0 mmol, 1.40 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | cesium carbonate | 13.6 mmol, 4.44 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.23 mmol, 0.27 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-fluorophenyl)phenol | 0.79 g, 46% | FC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9FO
